US04148998
7-[[2-Carboethoxy-2-(1-pyrryl)acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
2-(1-Pyrryl)propanedioic acid, 3-ethyl ester, 1 equivalent and 1 equivalent of triethylamine is added to tetrahydrofuran (THF) which is cooled to 0° C. While stirring, iso-butyl chloroformate, 1 equivalent, is added and the temperature is maintained at 0° C. for about 15 minutes. A cold solution of 7-amino-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, 1 equivalent, and triethylamine, 1 equivalent, in 50% aqueous THF is added with stirring to the previous solution.

reactant | 2-(1-Pyrryl)propanedioic acid, 3-ethyl ester | N1(C=CC=C1)C(C(=O)[O-])C(=O)OCC
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
reactant | iso-butyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 7-amino-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC1(C2SCC(=C(N2C1=O)C(=O)O)C)OC | C9H12N2O4S
solvent | THF | O1CCCC1 | C4H8O
product | 7-[[2-Carboethoxy-2-(1-pyrryl)acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(=O)(OCC)C(C(=O)NC1(C2SCC(=C(N2C1=O)C(=O)O)C)OC)N1C=CC=C1 | C18H21N3O7S
